US09029560B2
Preparation of 4-methyl-2-nitro-1-vinylbenzene (CA31)
The title compound was prepared as described in Example 67 using 1-chloro-4-methyl-2-nitrobenzene and tributyl(vinyl)stannane, further purified by flash column chromatography and reverse phase chromatography and isolated as a yellow liquid (1.26 g, 65%): 1H NMR (400 MHz, CDCl3) δ7.73 (d, J=0.8 Hz, 1H), 7.52 (d, J=8.0 Hz, 1H), 7.46-7.35 (m, 1H), 7.13 (dd, J=17.3, 11.0 Hz, 1H), 5.71 (dd, J=17.3, 0.9 Hz, 1H), 5.43 (dd, J=11.0, 0.9 Hz, 1H), 2.42 (s, 3H); 13C NMR (101 MHz, CDCl3) δ 147.71, 138.91, 133.92, 132.31, 130.52, 128.22, 124.63, 118.10, 20.88; EIMS m/z 163 ([M]+).

reactant | 1-chloro-4-methyl-2-nitrobenzene | ClC1=C(C=C(C=C1)C)[N+](=O)[O-] | C7H6ClNO2
reactant | tributyl(vinyl)stannane | C(CCC)[Sn](C=C)(CCCC)CCCC
product | 4-methyl-2-nitro-1-vinylbenzene | CC1=CC(=C(C=C1)C=C)[N+](=O)[O-] | C9H9NO2
